US04273779
2.5 g of 5-nitro-2-picoline are dissolved in 60 ml of methylene chloride and 4.05 g (20 m mole) of 85% m-chloroperbenzoic acid are added while stirring at room temperature. Stirring is continued overnight and the mixture is washed twice with aqueous sodium bicarbonate and then with water. It is dried, evaporated and the residue crystallized from acetonitrile, to yield the 5-nitro-2-picoline-N-oxide melting at 149°-153°.

reactant | 5-nitro-2-picoline | 2.5 g | [N+](=O)([O-])C=1C=CC(=NC1)C | C6H6N2O2
reactant | m-chloroperbenzoic acid | 4.05 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 5-nitro-2-picoline-N-oxide | [N+](=O)([O-])C1=CC=C([N+](=C1)[O-])C | C6H6N2O3
